US04319026
(a) Preparation of 2-(1-Methylhydrazino)benzoxazole Intermediate
To an ice cooled solution of 16.2 ml. of methylhydrazine in 100 ml. of dry ether is added 10.8 g. of 2-chlorobenzoxazole at a dropwise rate, keeping the temperature below 25° C. The mixture is stirred 30 min. in the ice bath and 2 hours at room temperature and then carefully evaporated. The residue is slurried with 200 ml. cold water, filtered, washed and dried to give 9.5 g. of 2-(1-methylhydrazine)benzoxazole, m.p. 128°-31°.

reactant | methylhydrazine | CNN | CH6N2
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | ether | CCOCC | C4H10O
product | 2-(1-Methylhydrazino)benzoxazole | CN(N)C=1OC2=C(N1)C=CC=C2 | C8H9N3O
